US08378104B2
2-{4-[7-amino-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}ethanol
2-(isoquinolin-5-yl)-4-{1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-pyrazol-4-yl}furo[2,3-c]pyridin-7-amine (20.0 mg, 0.0439 mmol) was dissolved in MeOH (0.5 mL) and HCl (4 M in 1,4-dioxane, 0.50 mL, 2.0 mmol) was added. The reaction stirred at RT for 16 h. The reaction was concentrated in vacuo to a solid. Purification by flash chromatography (0 to 10% 7 N NH3/MeOH:EtOAc) afforded 1.6 mg (10%) of the title compound. 1H NMR (400 MHz, CD3OD): δ 9.36 (s, 1H), 8.60 (d, J=6.06 Hz, 1H), 8.52 (d, J=6.32 Hz, 1H), 8.38 (dd, J=7.33, 1.26 Hz, 1H), 8.27 (d, J=8.34 Hz, 1H), 8.14 (s, 1H), 7.96 (d, J=1.01 Hz, 2H), 7.82-7.89 (m, 1H), 7.55 (s, 1H), 4.32-4.38 (m, 2H), 3.97 (t, 2H); MS (ESI): 372.14 [M+H]+; HPLC tR=0.82 min (TOF: polar—3 min).

reactant | 2-(isoquinolin-5-yl)-4-{1-[2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-1H-pyrazol-4-yl}furo[2,3-c]pyridin-7-amine | 0.0439 mmol, 20.0 mg | C1=NC=CC2=C(C=CC=C12)C1=CC=2C(=C(N=CC2C=2C=NN(C2)CCOC2OCCCC2)N)O1 | C26H25N5O3
reactant | HCl | 2.0 mmol, 4 M, 0.50 mL | Cl | ClH
solvent | MeOH | 0.5 mL | CO | CH4O
product | 2-{4-[7-amino-2-(isoquinolin-5-yl)furo[2,3-c]pyridin-4-yl]-1H-pyrazol-1-yl}ethanol | 1.6 mg, 10% | NC=1N=CC(=C2C1OC(=C2)C2=C1C=CN=CC1=CC=C2)C=2C=NN(C2)CCO | C21H17N5O2
